US04872901
1,3-Dimethyl-4-ethoxycarbonyl-5-benzylthiopyrazole
In 60 ml of acetonitrile is dissolved 10.0 g of ethyl 2-acetyl-3,3-bis(benzylthio)acrylate. To the solution is added dropwise, while stirring at room temperature (15° C.), 1.2 g of methyl hydrazine over a period of 10 minutes, followed by heating for 3 hours under reflux. Then, the solvent is distilled off under reduced pressure. The residue is purified by means of silica gel column chromatography (eluent, n-hexane:ethyl acetate=8/1) to give 5.8 g of the title compound as white crystals, m.p. 55° to 56° C.

reactant | ethyl 2-acetyl-3,3-bis(benzylthio)acrylate | 10.0 g | C(C)(=O)C(C(=O)OCC)=C(SCC1=CC=CC=C1)SCC1=CC=CC=C1 | C21H22O3S2
reactant | methyl hydrazine | 1.2 g | CNN | CH6N2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 1,3-Dimethyl-4-ethoxycarbonyl-5-benzylthiopyrazole | 5.8 g | CN1N=C(C(=C1SCC1=CC=CC=C1)C(=O)OCC)C | C15H18N2O2S
